US20010008893A1
4-Benzoyloxy-2-methylnaphthol
9.7 g (0.056 mol) of 2-methyl-1,4-dihydroxynaphthalene was dissolved in 60 ml of pyridine, and, while stirring under ice-cooling, 8.4 g (0.06 mol) of benzoyl chloride was added dropwise. Following completion of the addition, stirring was continued under ice-cooling for 30 minutes, and for further one hour at room temperature. The reaction mixture was concentrated under reduced pressure, the residual oil extracted with ethyl acetate, washed with 1N HCl and then water, and the organic layer concentrated under reduced pressure. Methanol was added to the residue, the precipitated crystals collected by filtration and recrystallized from methanol to give 10.8 g of white crystals, m.p. 172-174°C.

reactant | 2-methyl-1,4-dihydroxynaphthalene | 0.056 mol, 9.7 g | CC1=C(C2=CC=CC=C2C(=C1)O)O | C11H10O2
reactant | benzoyl chloride | 0.06 mol, 8.4 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | 4-Benzoyloxy-2-methylnaphthol | 10.8 g | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C2=CC=CC=C12)O)C | C18H14O3
